US07741341B2
1.00 g (5.40 mmol) 3-Fluoro-4-nitro-benzoic acid were suspended in 55 mL benzene. 1 mL Thionyl chloride and 7 drops DMF were added. The resulting mixture was stirred of 5 h at 70° C. and then concentrated under reduced pressure. The residue was dissolved in 40 mL CH2Cl2. Subsequently 0.75 mL (5.40 mmol) triethylamine and 0.45 mL (5.40 mmol) pyrrolidine were added and the resulting solution was stirred for 1 h at room temperature. The mixture was diluted with CH2Cl2 and washed subsequently with a 0.1 N HCl-solution, with a saturated NaHCO3-solution and with brine. The organic layer was dried over anhydrous MgSO4 and concentrated under vacuo to give crude (3-Fluoro-4-nitro-phenyl)-pyrrolidin-1-yl-methanone as an orange solid.

reactant | 3-Fluoro-4-nitro-benzoic acid | 5.40 mmol, 1.00 g | FC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4FNO4
reactant | Thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 5.40 mmol, 0.75 mL | C(C)N(CC)CC | C6H15N
reactant | pyrrolidine | 5.40 mmol, 0.45 mL | N1CCCC1 | C4H9N
solvent | benzene | 55 mL | C1=CC=CC=C1 | C6H6
catalyst | DMF | 7 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (3-Fluoro-4-nitro-phenyl)-pyrrolidin-1-yl-methanone | FC=1C=C(C=CC1[N+](=O)[O-])C(=O)N1CCCC1 | C11H11FN2O3
